US08048887B2
5-(3-(1H-Tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Azidotrimethylsilane (161 μL, 1.215 mmol) was added to a stirring solution of 5-(3-cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (225 mg, 0.607 mmol) and dibutylstannanone (30 mg, 0.121 mmol) in toluene (6 mL) at rt. It was heated to 105° C. and allowed to stir overnight. The reaction, which remained a slurry, resulted in ˜70% conversion. Additional equiv of reagents and solvents were added and the mixture was allowed to stir overnight at 105° C. The reaction was allowed to cool and filtered to give the titled compound (205 mg, 82%). LC-MS retention time: 1.03 min; m/z (MH+): 414. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Azidotrimethylsilane | 1.215 mmol, 161 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | 5-(3-cyanophenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.607 mmol, 225 mg | C(#N)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H15FN2O2
reactant | dibutylstannanone | 0.121 mmol, 30 mg | C(CCC)[Sn](=O)CCCC
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-(1H-Tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 205 mg, 82% | N1N=NN=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H16FN5O2
